US07018988B2
(2S,4EZ)-N-(2,1,3-benzothiadiazol-4-yl)-1-(diphenylacetyl)-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, diphenylacetyl chloride, and 2,1,3-benzothiadiazol-4-amine the title compound was obtained in 69% purity by LC/MS. MS(ESI+): mz=486.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | 2,1,3-benzothiadiazol-4-amine | N=1SN=C2C1C=CC=C2N | C6H5N3S
product | (2S,4EZ)-N-(2,1,3-benzothiadiazol-4-yl)-1-(diphenylacetyl)-4-(methoxyimino)-2-pyrrolidinecarboxamide | N=1SN=C2C1C=CC=C2NC(=O)[C@H]2N(CC(C2)=NOC)C(C(C2=CC=CC=C2)C2=CC=CC=C2)=O | C26H23N5O3S
